US05672588
(R)-1-Phenylsulphonyl-2-propylamine (0.4 g, 1.7 mmol) was reacted with 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.7 g, 1.0 mmol) in dioxan (20 ml) in the presence of triethylamine (0.4 g, 4.3 mmol). The reaction mixture was stirred at room temperature for 48 h, heated at 60° C. for 4 h, cooled, filtered and evaporated. The product (after purification by flash chromatography) was debenzoylated with methanolic ammonia to provide the title 2-chloro- N-[(R)-1-phenylsulphonyl-2-propyl]adenosine (after column chromatography) as a foam (0.2 g, 24%), 1H NMR (DMSO-d6)δ 1.24 (3H, d, --CH3), 3.45 (1H, dd, --C--H), 3.53-3.61 (2H, m, H-5'a and --C--H), 3.64-3.71 (1H, m, H-5'b), 3.86 (1H, dd, --C--H), 3.97 (1H, q, H-4'), 4.14 (1H, m, H-3'), 4.53 (1H, m, H-2'), 5.09 (1H, t, 5'-OH), 5.23, 5.50 (2H, 2 d, 2' and 3'-OH), 5.83 (1H, d, H-1'), 7.45-7.82 (5H, m, Ar--H), 8.21 (1H, s, --N--H), 8.38 (1H, s, H-8).

reactant | (R)-1-Phenylsulphonyl-2-propylamine | 1.7 mmol, 0.4 g | C1(=CC=CC=C1)S(=O)(=O)C[C@@H](C)N | C9H13NO2S
reactant | 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 1.0 mmol, 1.7 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | triethylamine | 4.3 mmol, 0.4 g | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 2-chloro- N-[(R)-1-phenylsulphonyl-2-propyl]adenosine | 0.2 g, 24% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](CS(=O)(=O)C1=CC=CC=C1)C | C19H22ClN5O6S
